US05409934
Sodium hydride (0.31 g of a 60% suspension in oil, 2.1 eq) was added to a suspension of 8-amino-1,3-di(cyclopropylmethyl)xanthine (1 g, 3.64 mmol) in tetrahydrofuran (25 ml). After 30 minutes, 4-methoxybenzenesulphonyl chloride (0.82 g, 1.1 eq) was added and stirring continued for 48 hours. The reaction mixture was poured into water, acidified with dilute hydrochloric acid and extracted into ethyl acetate. The combined organic solutions were dried (MgSO4), filtered and concentrated. The crude residue was purified by column chromatography over silica in 2-5% methanol/dichloromethane to afford 1,3-di(cyclopropylmethyl)-8-(4-methoxybenzenesulphonylamino )xanthine (0.50 g, 31%) as a white solid m.pt>200° C. (decomp.)

reactant | Sodium hydride | [H-].[Na+]
reactant | 8-amino-1,3-di(cyclopropylmethyl)xanthine | 3.64 mmol, 1 g | NC1=NC=2N(C(N(C(C2N1)=O)CC1CC1)=O)CC1CC1 | C13H17N5O2
reactant | 4-methoxybenzenesulphonyl chloride | 0.82 g, 1.1 eq | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,3-di(cyclopropylmethyl)-8-(4-methoxybenzenesulphonylamino )xanthine | 0.50 g, 31% | C1(CC1)CN1C(=O)N(C=2N=C(NC2C1=O)NS(=O)(=O)C1=CC=C(C=C1)OC)CC1CC1 | C20H23N5O5S
